US04520027
A mixture of ethyl nicotinate (21.9 g.) and ethylenediamine (30 ml.) was heated to 100° C. for 16 hours under an atmosphere of argon. Excess ethylenediamine was removed by distillation in vacuo and the residue was dissolved in water (100 ml.) The insoluble material [bis(carboxamido)derivative] was removed by filtration. Evaporation of the filtrate, addition of toluene (50 ml.) followed by re-evaporation gave crude N-(2-aminoethyl)pyridine-3-carboxamide (26.5 g.) as its oily free base, essentially pure by TLC (SiO2 : 10% MeOH/CHCl3) and which was used without purification.

reactant | ethyl nicotinate | 21.9 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | ethylenediamine | 30 ml | C(CN)N | C2H8N2
product | N-(2-aminoethyl)pyridine-3-carboxamide | 26.5 g | NCCNC(=O)C=1C=NC=CC1 | C8H11N3O
